US04483853
(d) Resolution of 2-amino-7-phosphonoheptanoic acid
Equimolar quantities of the phosphonic acid, and L-lysine, were dissolved in water and warmed for 1/2hr at 60° C. Two volumes of hot methanol were then added and the mixture brought to room temperature. Diethyl ether was added carefully, until a slight cloudiness appeared in the solution, which was left to stand. The phosphonic acid/lysine salt was filtered off and dissolved in water. A "Dowex" 50×8 column was prepared by passed 2M pyridine down it, and washing with water, the lysine salt solution was passed down the column and washed through with water, the phosphonic acid passing straight through. The amine acid containing fractions were collected and evaporated to dryness; a solution of known concentration was then made up, and the rotation of plane polarised light recorded on a "TBL" Automatic Polarimeter 143D using a mercury lamp. The first isomer to be precipitated was found to be (-), and circular dichroism studies indicated it to have the D configuration.

reactant | phosphonic acid | P(O)(O)=O | H3O3P
reactant | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | methanol | CO | CH4O
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | pyridine | 2M | N1=CC=CC=C1 | C5H5N
product | 2-amino-7-phosphonoheptanoic acid | NC(C(=O)O)CCCCCP(=O)(O)O | C7H16NO5P
